US03954754
EXAMPLE 9: 3-Hydrazino-5,6,7,8-tetrahydro-6-(o-toluoyl) pyrido[4,3-c]pyridazine
13.0 g of 3-chloro-5,6,7,8-tetrahydro-6-(o-toluoyl)pyrido[4,3-c]pyridazine and 100 cc of hydrazine hydrate are reacted as described in Example 4. Reaction time 2 hours. The bis[3-hydrazino-5,6,7,8-tetrahydro-6-(o-toluoyl)pyrido[4,3-c]pyridazine] trisfumarate has a M.P. of 98°-100° (decomp., from 95% ethanol).

reactant | 3-chloro-5,6,7,8-tetrahydro-6-(o-toluoyl)pyrido[4,3-c]pyridazine | 13.0 g | ClC1=CC2=C(N=N1)CCN(C2)C(=O)C=2C(=CC=CC2)C | C15H14ClN3O
reactant | hydrazine hydrate | 100 cc | O.NN
reactant | bis[3-hydrazino-5,6,7,8-tetrahydro-6-(o-toluoyl)pyrido[4,3-c]pyridazine] trisfumarate | C(\C=C\C(=O)O)(=O)O.C(\C=C\C(=O)O)(=O)O.C(\C=C\C(=O)O)(=O)O.N(N)C1=CC2=C(N=N1)CCN(C2)C(=O)C=2C(=CC=CC2)C.N(N)C2=CC1=C(N=N2)CCN(C1)C(=O)C=1C(=CC=CC1)C
solvent | ethanol | C(C)O | C2H6O
product | 3-Hydrazino-5,6,7,8-tetrahydro-6-(o-toluoyl) pyrido[4,3-c]pyridazine | N(N)C1=CC2=C(N=N1)CCN(C2)C(=O)C=2C(=CC=CC2)C | C15H17N5O
